US03960542
A mixture of 17 gms (0.05 mole) 2-mercaptopyridine N-oxide, sodium salt (40% aqueous solution) and 8.5 gms (0.05 mole) α 2 chloroisodurene in 50 ml of ethanol is brought to reflux for 15 minutes. The volatiles are removed and the residue extracted with 150 ml of boiling chloroform, filtered and dried over sodium sulfate. Evaporation and trituration of the residue with a few drops of acetone induced crystallization. A yield of 11.5 gms of 2-(2,4,6-trimethylphenylmethylthio)pyridine N-oxide is obtained. Melting point 137° - 138°C. Structure confirmed by IR and NMR.

reactant | 2-mercaptopyridine N-oxide | 0.05 mole, 17 gms | SC1=[N+](C=CC=C1)[O-] | C5H5NOS
reactant | sodium | [Na] | Na
reactant | chloroisodurene | ClCC1=C(C)C(C)=CC(C)=C1 | C10H13Cl
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2,4,6-trimethylphenylmethylthio)pyridine N-oxide | yield of 11.5 gms | CC1=C(C(=CC(=C1)C)C)CSC1=[N+](C=CC=C1)[O-] | C15H17NOS
